data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_529465_0,[C:1](=[C:2]([H:8])[H:9])(/[N:5]=[N:4]/[O:3][H:6])[H:7]>>[C:1]1([H:7])=[N:5][N:4]([O:3][H:6])[C:2]1([H:8])[H:9],43.43052999999571
MR_643114_0,[C:1](/[C:2](=[C:4](\[N:3]([H:10])[H:11])[H:14])[O:7][H:9])([O:5][O:6][H:8])([H:12])[H:13]>>[C:1](=[C:2]([C@:4]([N:3]([H:10])[H:11])([O:5][O:6][H:8])[H:14])[O:7][H:9])([H:12])[H:13],40.41413750001382
MR_665301_0,[C:1](/[C:3]([N:2]([N:4]([H:10])[H:11])[C:6](=[C:7]([H:17])[H:18])[H:13])=[C:5](/[O:8][H:9])[H:12])([H:14])([H:15])[H:16]>>[C:1](/[C:3](=[N:2]/[N:4]([H:10])[H:11])[C:5]([C:6](=[C:7]([H:17])[H:18])[H:13])([O:8][H:9])[H:12])([H:14])([H:15])[H:16],69.30360999994718
MR_347034_1,[C:1]([C:4](=[C:8]([H:20])[H:21])[O:9][H:10])([C:5]([C:2]([H:17])([H:18])[H:19])=[C:3]([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])([H:15])[H:16]>>[C:1]1([H:15])([H:16])[C:4](=[C:8]([H:20])[H:21])[C:5]1([C:2]([H:17])([H:18])[H:19])[C:3]([N:6]([H:11])[H:12])([N:7]([H:13])[H:14])[O:9][H:10],73.05856999999051
MR_600284_0,[C:1](/[C:3]([N:2]([C:4](/[C:6](=[N:9]/[H:13])[H:14])=[C:7]([H:18])[H:19])[N:5]([H:10])[H:11])=[N:8]/[H:12])([H:15])([H:16])[H:17]>>[C:1](/[C:3]([C:7]([C:4](=[N:2]/[N:5]([H:10])[H:11])/[C:6](=[N:9]/[H:13])[H:14])([H:18])[H:19])=[N:8]/[H:12])([H:15])([H:16])[H:17],50.783575000014736
MR_156097_1,[C:1]([C:2]([N:5]([C:3]([H:14])([H:15])[H:16])[C:6]([O:7][H:9])([O:8][H:19])[H:11])([H:12])[H:13])(=[C:4]([H:17])[H:18])[H:10]>>[C:1]([C:2]([N:5]([C:3]([H:14])([H:15])[H:16])[C:6](=[O:8])[H:11])([H:12])[H:13])([C:4]([H:17])([H:18])[H:19])([O:7][H:9])[H:10],56.67266249998463
MR_628872_2,[C:1](/[C:3]([O:6]/[C:4]([C:2]([H:15])([H:16])[H:17])=[C:5](\[O:7][H:9])[H:11])=[N:8]/[H:10])([H:12])([H:13])[H:14]>>[C:1](/[C:3]([C:4]([C:2]([H:15])([H:16])[H:17])([C:5](=[O:7])[H:11])[O:6][H:9])=[N:8]/[H:10])([H:12])([H:13])[H:14],52.1628199999924
MR_233128_0,[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[O:6][H:8])(/[N:7]=[C:5](\[N:4]([H:9])[H:10])[H:13])([H:11])[H:12]>>[C:1](=[N:7][C@@:5]([N:3]([C:2]([H:14])([H:15])[H:16])[O:6][H:8])([N:4]([H:9])[H:10])[H:13])([H:11])[H:12],62.0233549999584
MR_628442_1,[C:1]([C:3]([H:17])([H:18])[H:19])(/[C:6]([C:4]([H:20])([H:21])[H:22])=[C:5](\[N:7]([H:12])[H:13])[O:9][H:10])([O:8][C:2]([H:14])([H:15])[H:16])[H:11]>>[C:1](\[C:3]([H:17])([H:18])[H:19])(=[C:6](/[C:4]([H:20])([H:21])[H:22])[C:5]([N:7]([H:12])[H:13])([O:8][C:2]([H:14])([H:15])[H:16])[O:9][H:10])[H:11],54.53037750000732
MR_57916_0,[c:1]1([O:5][H:7])[c:2]([H:8])[o:4][n:6][c:3]1[H:9]>>[C@:1]1([C:2](=[O:4])[H:8])([O:5][H:7])[C:3]([H:9])[N:6]1,46.68349000002237
MR_318952_1,[C:1]([C:2]([H:12])([H:13])[H:14])([O:6][H:8])(/[N:7]=[C:4](/[C:3]([H:15])([H:16])[H:17])[N:5]([H:10])[H:11])[H:9]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[N:7]\[C:4]([C:3]([H:15])([H:16])[H:17])([N:5]([H:10])[H:11])[O:6][H:8])[H:9],61.8991100000224
MR_229023_2,[C:1](/[C:5]([C:4]1([N:7]([H:10])[H:11])[C:6]([C:2]([H:17])([H:18])[H:22])([C:3]([H:19])([H:20])[H:21])[N:9]1[H:13])=[N:8]\[H:12])([H:14])([H:15])[H:16]>>[C:1](/[C:5](=[C:4](\[N:7]([H:10])[H:11])[N:9]=[C:6]([C:2]([H:17])([H:18])[H:22])[C:3]([H:19])([H:20])[H:21])[N:8]([H:12])[H:13])([H:14])([H:15])[H:16],39.57328749999661
MR_352556_1,[C:1](/[C:2]([O:4][N:7]=[C:3]([H:12])[H:13])=[N:6]/[O:5][H:8])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[O:4])[N:6]([O:5][H:8])[N:7]=[C:3]([H:12])[H:13])([H:9])([H:10])[H:11],60.7664725000285
MR_307810_1,[C:1]([N:3]([N:4]([C:5]([C:2]([H:13])([H:14])[H:15])=[O:8])[H:9])[N:6]=[O:7])([H:10])([H:11])[H:12]>>[C:1]([N:3]1[N:4]([H:9])[C:5]1([C:2]([H:13])([H:14])[H:15])[O:8][N:6]=[O:7])([H:10])([H:11])[H:12],64.54339500005204
MR_212645_0,[C:1]1([H:14])([H:15])[N:4]([H:11])[N:3]([H:10])[C@@:6]([C:2]([H:16])([H:17])[H:18])([C:5]([N:7]([H:12])[H:13])=[O:8])[O:9]1>>[C:1]([N:4]([N:3]([C:6]([C:2]([H:16])([H:17])[H:18])=[O:9])[H:10])[H:11])([C:5]([N:7]([H:12])[H:13])=[O:8])([H:14])[H:15],56.61179499999562
MR_66156_0,[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[C:5]([N:4]([N:6]([H:9])[H:10])[H:8])=[O:7])([H:11])([H:12])[H:13]>>[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])/[C:5](=[N:4]/[N:6]([H:8])[H:10])[O:7][H:9])([H:11])([H:12])[H:13],54.54292750004697
MR_69562_0,[C:1]1([H:9])([H:10])[N:4]([H:8])[O:7][C:5]([C:2]([H:11])([H:12])[H:13])=[C:6]1[C:3]([H:14])([H:15])[H:16]>>[C:1]1([H:9])([H:10])[N:4]([H:8])[C:6]1([C:3]([H:14])([H:15])[H:16])[C:5]([C:2]([H:11])([H:12])[H:13])=[O:7],38.77698999997392
MR_543867_1,[C:1]([C:5]1([C:4]([N:6]([H:10])[H:11])=[O:7])[N:2]([H:9])[C:3]1=[O:8])([H:12])([H:13])[H:14]>>[C:1]([c:5]1[n:2]([H:9])[c:3](=[O:8])[o:7][c:4]1[N:6]([H:10])[H:11])([H:12])([H:13])[H:14],28.59580249999709
MR_692922_0,[C:1]1([N:3]([H:11])[H:12])([O:5][H:9])[C:2](=[O:8])[C:4]([H:13])([H:14])[N:7]1[O:6][H:10]>>[C:1]([C:2]([O:6][H:10])=[O:8])([N:3]([H:11])[H:12])([O:5][H:9])[N:7]=[C:4]([H:13])[H:14],62.45131000001933
